US06498159B1
49.3 g of tert-butyl 4-methylene-1-piperidine carboxylate was added to a mixture of 157.2 g zinc-copper alloy and 500 ml diethyl ether, and 900 ml solution of 181.8 g trichloroacetyl chloride in dimethoxyethane was added dropwise thereinto over 5.5 hours. After stirred for 30 min, the reaction solution was cooled and saturated aqueous sodium bicarbonate was added thereto at 0° C. or less. The mixture was filtered through Celite and evaporated. The resulting residue was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated, and the resulting residue was subjected to silica gel column chromatography to give 62.5 g of tert-butyl 1,1-dichloro-2-oxo-7-azaspiro[3.5]nonane-7-carboxylate.

reactant | tert-butyl 4-methylene-1-piperidine carboxylate | 49.3 g | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | trichloroacetyl chloride | 181.8 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | zinc-copper | 157.2 g | [Cu].[Zn]
product | tert-butyl 1,1-dichloro-2-oxo-7-azaspiro[3.5]nonane-7-carboxylate | 62.5 g | ClC1(C(CC12CCN(CC2)C(=O)OC(C)(C)C)=O)Cl | C13H19Cl2NO3
